US07482354B2
Ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate
41.40 g (0.29 mol) of 2-ethoxycyclohex-2-en-1-one were dissolved in 310 mL of diethyl ether and 325 mL of 1M LiN(1MS)2 in tetrahydrofuran were added dropwise at −50° C. After 30 minutes at the same temperature, 44.2 mL of diethyloxalate were also added under stirring. The solution was kept at room temperature overnight (TLC chloroform). 300 mL of water were then added, the pH adjusted to 4-5 by adding 1 N HCl and the resulting solution extracted with ethyl acetate. The organic layer was dried over Na2SO4 and evaporated to dryness. The crude was purified by chromatography on a silica gel column eluted by chloroform (76% yield as an oil).

reactant | 2-ethoxycyclohex-2-en-1-one | 0.29 mol, 41.40 g | C(C)OC=1C(CCCC1)=O | C8H12O2
reactant | diethyloxalate | 44.2 mL | C(C)OC(C(=O)OCC)=O | C6H10O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | HCl | 1 N | Cl | ClH
solvent | diethyl ether | 310 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | Ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate | 76% yield | C(C)OC=1C(C(CCC1)C(C(=O)OCC)=O)=O | C12H16O5
